US07348359B2
A mixture of 1.08 mmol of (3,5-diisopropyl-2-propoxy-phenyl)-boronic acid, 498 mg (1.62 mmol) of 2-acetyl-7-trifluoromethanesulfonate benzo[b]furan (see Example 4, step A) and 62 mg (0.05 mmol) of Pd(Ph3)4, 1 mL of 2N aqueous sodium carbonate in 9 mL of toluene and 4 mL ethanol was heated to reflux. After complexion (TLC), water was added and the solution was extracted with ethyl acetate. The organic layer is dried over MgSO4 and after evaporation of the solvents, the crude oil was purified over a short silica plug (eluent: 10/90=ethyl acetate/hexane) to afford 2-acetyl-7-(3,5-diisopropyl-2-propoxyphenyl)-benzo[b]furan as a clear yellow pasty solid.

reactant | (3,5-diisopropyl-2-propoxy-phenyl)-boronic acid | 1.08 mmol | C(C)(C)C=1C(=C(C=C(C1)C(C)C)B(O)O)OCCC | C15H25BO3
reactant | sodium carbonate | 2N, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
reactant | ethanol | 4 mL | C(C)O | C2H6O
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | 2-acetyl-7-(3,5-diisopropyl-2-propoxyphenyl)-benzo[b]furan | C(C)(=O)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCCC | C25H30O3
